US08309580B2
(3) 2-{4-[chloro(cyclohexyl)methyl]-5-methylfuran-2-yl}-5-fluoropyridine
To a solution of cyclohexyl[5-(5-fluoropyridin-2-yl)-2-methylfuran-3-yl]methanol (0.7 g) in toluene (10 mL) was added thionyl chloride (0.3 mL), and the mixture was stirred at room temperature for 2 hr. The solvent was evaporated under reduced pressure to give the title compound (0.7 g, 100%) as a yellow crystal.

reactant | cyclohexyl[5-(5-fluoropyridin-2-yl)-2-methylfuran-3-yl]methanol | 0.7 g | C1(CCCCC1)C(O)C1=C(OC(=C1)C1=NC=C(C=C1)F)C | C17H20FNO2
reactant | thionyl chloride | 0.3 mL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 2-{4-[chloro(cyclohexyl)methyl]-5-methylfuran-2-yl}-5-fluoropyridine | 0.7 g, 100% | ClC(C=1C=C(OC1C)C1=NC=C(C=C1)F)C1CCCCC1 | C17H19ClFNO
